US07022730B2
The compound Bis(5-benzyloxyindol-3-yl)-(2,4-dichlorophenyl)methane was prepared following procedure A, starting from 5-benzyloxy indole and 2,4 dichloro benzaldehyde. LC: Tr 2.89 min, MS: 603 (M+H)+

reactant | 5-benzyloxy indole | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | 2,4 dichloro benzaldehyde | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
product | Bis(5-benzyloxyindol-3-yl)-(2,4-dichlorophenyl)methane | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)C(C1=C(C=C(C=C1)Cl)Cl)C1=CNC2=CC=C(C=C12)OCC1=CC=CC=C1 | C37H28Cl2N2O2
